US09029536B2
1-Ethyl-6-fluoro-3-(4-{[3-(2-methoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]oxy}phenyl)-1H-pyrazolo[4,3-b]pyridine
To a stirred solution of 4-(1-ethyl-6-fluoro-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol (57.6 mg) in DMF (4 mL) was added NaH (60% in oil, 5.38 mg) at room temperature. The mixture was stirred at room temperature for 30 min and then 3-(2-methoxyethyl)-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (52 mg) was added. The mixture was exposed to microwave irradiation at 180° C. for 30 min, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (AcOEt/hexane). The product was crystallized from EtOH/hexane to give the title compound (38.0 mg).

reactant | 4-(1-ethyl-6-fluoro-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol | 57.6 mg | C(C)N1N=C(C2=NC=C(C=C21)F)C2=CC=C(C=C2)O | C14H12FN3O
reactant | NaH | 5.38 mg | [H-].[Na+]
reactant | 3-(2-methoxyethyl)-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 52 mg | COCCN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C10H13N3O3S
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-Ethyl-6-fluoro-3-(4-{[3-(2-methoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]oxy}phenyl)-1H-pyrazolo[4,3-b]pyridine | 38.0 mg | C(C)N1N=C(C2=NC=C(C=C21)F)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2CCOC | C23H21FN6O2
